US08859591B2
To a room temperature solution of tert-butyl 3-(N-tert-butyl-4-(2-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)propyl)benzamido)propanoate (60 mg, 0.10 mmol) in dichloromethane (6 mL) was added trifluoroacetic acid (2.0 mL). The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated and purification by HPLC gave (+/−)-3-(4-(2-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)propyl)benzamido)propanoic acid (11.4 mg, 24%). 1H NMR (400 MHz, CD3OD, δ): 8.53 (s, 1H), 7.89 (s, 1H), 7.76 (d, 2H), 7.55 (d, 2H), 7.45 (d, 2H), 6.97 (d, 2H), 5.06 (d, 1H), 3.61-3.58 (m, 2H), 2.62-2.59 (m, 2H), 2.21-2.11 (m, 1H), 1.08 (d, 3H), 0.93 (d, 3H). MS (M+1): 476.4.

reactant | tert-butyl 3-(N-tert-butyl-4-(2-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)propyl)benzamido)propanoate | 0.10 mmol, 60 mg | C(C)(C)(C)N(C(C1=CC=C(C=C1)C(C(C)C)OC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)=O)CCC(=O)OC(C)(C)C | C32H40F3N3O4
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (+/−)-3-(4-(2-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)propyl)benzamido)propanoic acid | 11.4 mg, 24% | CC(C(OC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C24H24F3N3O4
